US06812355B2
The (4-bromo-2-(hydroxymethyl)phenyl)-(4′fluorophenyl)-(3-dimethylamino-propyl)methanol residue (160 g) was heated with 50% aqueous phosphoric acid (1.99 kg) with vigorous stirring. The reaction mass was purified by extraction and neutralized with aqueous ammonia at a temperature below 30° C. The reaction mass was extracted with toluene and the solvent distilled under reduced pressure to give 1-(4′fluorophenyl)-1-(3-dimethylaminopropyl)-5-bromophthalane (130 g).

reactant | (4-bromo-2-(hydroxymethyl)phenyl)-(4′fluorophenyl)-(3-dimethylamino-propyl)methanol | 160 g | BrC1=CC(=C(C=C1)C(O)(CCCN(C)C)C1=CC=C(C=C1)F)CO | C19H23BrFNO2
reactant | phosphoric acid | 1.99 kg | P(O)(O)(O)=O | H3O4P
product | 1-(4′fluorophenyl)-1-(3-dimethylaminopropyl)-5-bromophthalane | 130 g | CN(C)CCCC1(C2=C(CO1)C=C(C=C2)Br)C3=CC=C(C=C3)F | C19H21BrFNO
